US06696445B2
D. [3-(2,4-Dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl][2-(cyclopentylamino)ethyl]amine
Heat a solution of [3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl](2-chloroethyl)amine (0.08 g, 0.22 mmol), and cyclopentyl amine (0.2 mL g, 0.22 mmol) in dry NMP (3 mL) at 80° C. for 20 h. Pour the cooled mixture onto water (30 mL) and extract twice with EtOAc (50 mL). Wash the combined extracts with brine (50 mL), dry, and evaporate in vacuo. Purify by preparative TLC (10% MeOH in CH2Cl2) to obtain the title compound as a yellow oil.

reactant | [3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl](2-chloroethyl)amine | 0.22 mmol, 0.08 g | ClC1=C(C=CC(=C1)Cl)N1C(=NC=2C1=NC(=CC2NCCCl)C)C | C16H15Cl3N4
reactant | cyclopentyl amine | 0.22 mmol, 0.2 mL | C1(CCCC1)N | C5H11N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | [3-(2,4-Dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl][2-(cyclopentylamino)ethyl]amine | ClC1=C(C=CC(=C1)Cl)N1C(=NC=2C1=NC(=CC2NCCNC2CCCC2)C)C | C21H25Cl2N5
